US05332715
Ethyl 5-trimethylsilylmethyl-2-isoxazoline-3-carboxylate (Table 1, Example 3)
3.43 g of allyltrimethylsilane and 4.55 g of chloroximinoethyl acetate are introduced into 150 ml of ether. 3.03 g of triethylamine in 150 ml of ether are then slowly added dropwise. Water is subsequently added, and the mixture is extracted several times using ether. The ether phase is dried over MgSO4, and the ether is subsequently stripped off on a Rotavapor. Separation over a silica gel column (solvent: n-heptane:ether acetate=8:2) gives 4.2 g of the desired pure substance of a refractive index nD20 -1.462

reactant | allyltrimethylsilane | 3.43 g | C(C=C)[Si](C)(C)C | C6H14Si
reactant | chloroximinoethyl acetate | 4.55 g | C(C)(=O)OCC(=NO)Cl | C4H6ClNO3
reactant | triethylamine | 3.03 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | Ethyl 5-trimethylsilylmethyl-2-isoxazoline-3-carboxylate | C[Si](C)(C)CC1CC(=NO1)C(=O)OCC | C10H19NO3Si
